US08466186B2
(d) N-(4-Fluoro-3-isothiocyanatobenzyl)-1-(trifluoromethyl)cyclopropane carboxamide
A mixture of N-(3-amino-4-fluorobenzyl)-1-(trifluoromethyl)cyclopropanecarboxamide (3.17 g; 11.5 mmol) and TCDI (3.07 g; 17.2 mmol) in DCM (50 mL) was heated overnight at 50° C. The mixture was concentrated and the residue was purified by column chromatography.

reactant | N-(3-amino-4-fluorobenzyl)-1-(trifluoromethyl)cyclopropanecarboxamide | 11.5 mmol, 3.17 g | NC=1C=C(CNC(=O)C2(CC2)C(F)(F)F)C=CC1F | C12H12F4N2O
reactant | TCDI | 17.2 mmol, 3.07 g | C1=CN(C=N1)C(=S)N2C=CN=C2 | C7H6N4S
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | N-(4-Fluoro-3-isothiocyanatobenzyl)-1-(trifluoromethyl)cyclopropane carboxamide | FC1=C(C=C(CNC(=O)C2(CC2)C(F)(F)F)C=C1)N=C=S | C13H10F4N2OS
